US05175342
A mixture of 250 mg of colchicoside and 2 ml of 85-86% H3PO4 is stirred at 25° C. for 24 hours. The yellow solution is diluted with 10 ml of water, adjusted to pH 5 by addition of 2N NaOH and extracted with methylene chloride. The extracts are dried (Na2SO4), evaporated and chromatographed on Al2O3 (basic, Alfa Division, CH2C12 /MeOH=95:5). The appropriate fractions after evaporation of solvent and crystallization from acetone afford 180 mg (89%) of 3-demethylcolchicine: mp 176°-177° C. (resolidification at 205°-210° C. and 2nd mp 270° C. (dec.), [α]D =-151° (solvate crystal, CHCl3).

reactant | colchicoside | 250 mg | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=CC=C(C(=O)C=C13)OC)OC)OC)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O | C27H33NO11
reactant | H3PO4 | 2 ml | OP(=O)(O)O | H3O4P
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 3-demethylcolchicine | 180 mg, 89% | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=CC=C(C(=O)C=C13)OC)OC)OC)O | C21H23NO6
